US04495202
E. Preparation of 4'-(4-fluorophenyl)-4,4"-dimethoxy-1,1':2',1"-terphenyl.
To a solution of 13.91 g. of 1-[4,5-bis(4-methoxyphenyl)-1,5-cyclohexadien-1-yl]-4-fluorobenzene in 500 ml. of toluene were added 9.08 g. of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ). The solution was allowed to reflux under a nitrogen atmosphere for 20 hours employing a Dean-Stark trap. After cooling, the reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was purified by chromatography. The appropriate fractions were combined, evaporated, and recrystallized from diethyl ether/Skelly B to provide 6.08 g. of the desired product as a yellow solid, m.p. about 107°-110° C.

reactant | 1-[4,5-bis(4-methoxyphenyl)-1,5-cyclohexadien-1-yl]-4-fluorobenzene | COC1=CC=C(C=C1)C1CC=C(C=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C26H23FO2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4'-(4-fluorophenyl)-4,4"-dimethoxy-1,1':2',1"-terphenyl | FC1=CC=C(C=C1)C=1C=C(C(=CC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C26H21FO2
